US08957064B2
isopropyl-(2-methyl-6-phenyl-7-{4-{3-[5-(pyridine-2-yl)-1H-[1,2,4]triazole-3-yl)-azetidine-1-ylmethyl]-phenyl}-imidazo[1,2-a]pyrimidin-5-yl)-amine
227.9 mg (0.83 mmol) 2-(5-Azetidine-3-yl-[1,2,4]triazole-3-yl)-pyridine×2HCl are dissolved in 6.5 mL NMP. 0.25 mL (1.8 mmol) triethylamine are added and the reaction mixture is stirred for one hour. 280 mg (0.76 mmol) 4-(2-Methyl-5-isopropylamino-6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)-benzaldehyde and 0.08 mL (1.36 mmol) acetic acid are added. The reaction mixture is stirred for three days at room temperature. 176.2 mg (0.83 mmol) NaBH(OAc)3, are added in portions and the reaction mixture is stirred at room temperature for 18 hours. Additional 88 mg NaBH(OAc)3 are added and stirring is continued for 26 hours. After the usual work-up and purification by column chromatography and by HPLC 4.9 mg (1.1%) of the desired title compound are obtained.

reactant | 2-(5-Azetidine-3-yl-[1,2,4]triazole-3-yl)-pyridine | 0.83 mmol, 227.9 mg | N1CC(C1)C1=NC(=NN1)C1=NC=CC=C1 | C10H11N5
reactant | triethylamine | 1.8 mmol, 0.25 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(2-Methyl-5-isopropylamino-6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)-benzaldehyde | 0.76 mmol, 280 mg | CC=1N=C2N(C(=C(C(=N2)C2=CC=C(C=O)C=C2)C2=CC=CC=C2)NC(C)C)C1 | C23H22N4O
reactant | acetic acid | 1.36 mmol, 0.08 mL | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 0.83 mmol, 176.2 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaBH(OAc)3 | 88 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | NMP | 6.5 mL | CN1CCCC1=O | C5H9NO
product | isopropyl-(2-methyl-6-phenyl-7-{4-{3-[5-(pyridine-2-yl)-1H-[1,2,4]triazole-3-yl)-azetidine-1-ylmethyl]-phenyl}-imidazo[1,2-a]pyrimidin-5-yl)-amine | 4.9 mg, 1.1% | C(C)(C)NC1=C(C(=NC=2N1C=C(N2)C)C2=CC=C(C=C2)CN2CC(C2)C2=NNC(=N2)C2=NC=CC=C2)C2=CC=CC=C2 | C33H33N9
